V1 2 1 AC 10 1e6
* D1 2 3 10e-12 25e-3
* Simple single node Rectifier using a five non-zero terms of the Taylor expansion of I_0( e^v/vt - 1), with I_0 = 10e-12.
P1 2 3 5e-12 25e-3 2
P2 2 3 1.666e-12 25e-3 3
P3 2 3 0.4166e-12 25e-3 4
P4 2 3 0.0833e-12 25e-3 5
*P6 2 3 0.0138e-12 25e-3 6
*
D2 0 1 10e-12 25e-3
D3 1 3 10e-12 25e-3
D4 0 2 10e-12 25e-3
R1 3 0 1000
.end
